US06797718B2
2-(Ethoxymethyl)-1-[2-(benzyloxy)ethyl]-6,7-dimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridine (4.33 g, 10.03 mm01) was placed in a glass reaction flask, and then ammonium acetate (45 g) was added. The flask was sealed with a teflon screw cap and heated to 156° C. for 44 hours. The reaction was determined to be complete by HPLC analysis, and the desired product's molecular weight was confirmed by LC/MS. The resulting solution was basified with 1 N potassium hydroxide to a pH of about 14. The basic solution was extracted with dichloromethane (5×), and the organic layers were combined, washed with water (3×) and brine (3×), dried with magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting oil was triturated with diethyl ether. After the resulting solids were filtered off and dried, they were recrystallized from ethyl acetate/diethyl ether and again dried. NMR analysis or the recrystallized solids indicated impurities. The recrystallized solids were dissolved in ethanol. Hydrochloric acid (10 mL, 1 N) was added to the ethanol solution, and the resulting salt was filtered off and dissolved in water. The resulting aqueous solution was basified with 1 N potassium hydroxide to a pH of about 14 and extracted with dichloromethane (4×). The organic layers were combined, washed with water (2×) and brine (3×), dried with magnesium sulfate, filtered, and concentrated under reduced pressure to a white solid. The white solid was dried to provide 1.4285 g of 1-[2-(benzyloxy)ethyl]-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine, m.p. 107.3-108.2° C.

reactant | 2-(Ethoxymethyl)-1-[2-(benzyloxy)ethyl]-6,7-dimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridine | 4.33 g | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCOCC1=CC=CC=C1 | C26H29N3O3
reactant | ammonium acetate | 45 g | C(C)(=O)[O-].[NH4+]
reactant | potassium hydroxide | 1 N | [OH-].[K+]
product | 1-[2-(benzyloxy)ethyl]-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine | 1.4285 g | C(C1=CC=CC=C1)OCCN1C(=NC=2C(=NC(=C(C21)C)C)N)COCC | C20H26N4O2
